US08222416B2
A mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridine (300 mg, 0.56 mmol) and tetrabutylammonium fluoride in tetrahydrofuran (1.0 M, 20 mL, 20 mmol) was stirred for 12 h at room temperature. The mixture was poured into brine (15 mL), extracted with ethyl acetate (2×100 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to give 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridine (0.22 g, 100%) as a solid which was used in the next step without purification: LC/MS m/e calcd for C22H24N2O3S [M+H]+ 397.51, observed 397.2.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.56 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C28H28N2O5S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 20 mmol, 1.0 M, 20 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.22 g, 100% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC(=CC2)OC)N1 | C22H24N2O3S
